US07189738B2
5-Chloro-N-{3-oxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
0.23 ml (1.4 mmol) of triethylsilane is added to a solution of 378 mg (0.704 mmol) of tert-butyl 4-[2-(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1-methoxy-3-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate in 12 ml of dichloromethane and 0.65 ml of trifluoroacetic acid. The mixture is stirred overnight, concentrated and taken up in dichloromethane. The solution is washed with 1N sodium hydroxide solution, dried and concentrated. The residue is crystallized using diethyl ether. The resulting solid is purified further by chromatography on silica gel (gradient from dichloromethane/methanol 95:5 to dichloromethane/methanol/triethylamine 9:1:0.1).

reactant | triethylsilane | 1.4 mmol, 0.23 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | tert-butyl 4-[2-(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1-methoxy-3-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate | 0.704 mmol, 378 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)OC)CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C26H32ClN3O5S
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 0.65 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Chloro-N-{3-oxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(CC2=CC=C1)CCC1CCNCC1)=O | C20H22ClN3O2S
